US05409939
Preparation of (±)-3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-(phenylsulfonyl)butanoic acid Step 1.
(±)-3-[[5-[4-(Aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-[(phenylsulfinyl)]butanoic acid (2.5 g) was dissolved in 10 ml water and 5 ml acetic acid followed by the addition of 5 ml 30% H2O2. The oxidation was allowed to proceed for 24 h. after which the reaction mixture was purified by reverse phase chromatography (water/acetonitrile) and lyophilized to give 1.6 g of the title compound as a white solid: 1H NMR (d6 -DMSO) δ1.48 (m, 2H), 1.56 (m, 2H), 1.75 (m, 2H), 2.10 (m, 2H), 2.41 (m, 2H), 2.68 (m, 2H), 3.9 (m, 1H), 4.02 (m, 2H), 7.35 (m, 9H), 7.7 (bd, 1H, J=7.9 Hz), 9.05 (bs, 2H), 9.3 (bs, 2H); MS (FAB) m/e 446.2 (M+H+).

reactant | (±)-3-[[5-[4-(Aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-[(phenylsulfinyl)]butanoic acid | 2.5 g | NN=CC1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)O)CS(=O)C1=CC=CC=C1 | C22H27N3O4S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | H2O2 | 5 ml | OO | H2O2
solvent | water | 10 ml | O | H2O
product | (±)-3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-(phenylsulfonyl)butanoic acid | 1.6 g | NN=CC1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)O)CS(=O)(=O)C1=CC=CC=C1 | C22H27N3O5S
